US07851473B2
N-(3-Cyanophenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)-piperazine carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 3-cyanophenyl isocyanate (176 mg, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 204 mg (64.4%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyanophenyl isocyanate | 1.22 mmol, 176 mg | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(3-Cyanophenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)-piperazine carboxamide | 204 mg, 64.4% | C(#N)C=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C20H18N6OS
